US05908841
A mixture of 5,11-dihydro-11-ethyl-2-trifluoromethanesulfonyloxy-5-methyl-dipyrido[3,2-b:2',3'-e]azepine-6-one (0.084 g), 4-tributylstannylpyrazole (0.096 g), lithium chloride (0.052 g) and Pd(Ph3P)2Cl2 (0.009 g) in dimethylformamide (1 mL) was heated at 120° C. in a sealed tube 16 hours. The mixture was diluted with ethyl acetate, washed with water, dried, filtered and evaporated. Chromatography of the residue over silica gel (ethyl acetate/hexane) gave 5,11-dihydro-11-ethyl-2-(4-pyrazolyl)-5-methyl-dipyrido[3,2-b:2',3'-e]azepine-6-one (0.010 g).

reactant | 5,11-dihydro-11-ethyl-2-trifluoromethanesulfonyloxy-5-methyl-dipyrido[3,2-b:2',3'-e]azepine-6-one | 0.084 g | C(C)C1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)OS(=O)(=O)C(F)(F)F | C16H14F3N3O4S
reactant | 4-tributylstannylpyrazole | 0.096 g | C(CCC)[Sn](C=1C=NNC1)(CCCC)CCCC
reactant | lithium chloride | 0.052 g | [Cl-].[Li+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(Ph3P)2Cl2 | 0.009 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5,11-dihydro-11-ethyl-2-(4-pyrazolyl)-5-methyl-dipyrido[3,2-b:2',3'-e]azepine-6-one | 0.010 g | C(C)C1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)C=2C=NNC2 | C18H17N5O
